US05202407
A. Preparation of 3-methoxybenzyltri-p-tolylphosphonium chloride catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-p-tolyl phosphine and 25 gms of toluene. The slurry is maintained at 25° C. then 3 gms (0.0191 mole) of 3-methoxybenzyl chloride is added. This reaction mass is maintained at 25° C. for 15 hours, then heated to 70° C. and maintained for 2 hours, then cooled to 90° C. and maintained for 2 hours, then cooled to 70° C. and the resulting phosphonium salt collected by filtration. The salt is washed with 5 gms of toluene then vacuum dried. There is obtained 1.2 gms of catalyst which has a melting point of >250° C. and a chemical shift of 22.1 ppm (phosphoric acid reference).

reactant | tri-p-tolyl phosphine | 0.0164 mole, 5 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | 3-methoxybenzyl chloride | 0.0191 mole, 3 gms | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 25 gms | C1(=CC=CC=C1)C | C7H8
product | 3-methoxybenzyltri-p-tolylphosphonium chloride | [Cl-].COC=1C=C(C[P+](C2=CC=C(C=C2)C)(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)C=CC1 | InChI=1S/C29H30OP.ClH/c1-22-8-14-27(15-9-22)31(28-16-10-23(2)11-17-28,29-18-12-24(3)13-19-29)21-25-6-5-7-26(20-25)30-4;/h5-20H,21H2,1-4H3;1H/q+1;/p-1
